US07250410B2
5-{4-[3-(benzyloxy)prop-1-ynyl]phenyl}-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIbn.
Stir for 12 hours under an inert atmosphere at 50° C., a mixture of 100 mg (0.27 mmol) of 5-(4-bromophenyl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIbl), 194 mg (1.3 mmol) of [(prop-2-ynyloxy)methyl]benzene, 9.0 mg of CuI, 5.2 mg of PdCl2, 18.0 mg of PPh3, 0.5 ml of TEA, 2 ml of CH3CN. Evaporate to dryness and purify by silica chromatography (AcOEt 1/hexane 1). Recrystallize in EtO2/pentane. Yield: 37%. M: 64–66° C. 1H-NMR (CDCl3, 300 MHz): d 1.12 (s, 3H, CH3), 3.72–3.83 (m, 4H, 1H CH2+OCH3), 4.00 (AB system, ? d=0.63, JAB=13.5, 2H, —NCH2), 4.03 (s, 3H, OCH3), 4.43 (s, 2H, OCH2), 4.69 (m, 2H, ═C—CH2), 4.77 (m, 1H, OCH2), 6.65 (s, 1H Ar), 6.86 (s, 1H Ar), 7.27–7.63 (m, 9H Ar).

reactant | 5-(4-bromophenyl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.27 mmol, 100 mg | BrC1=CC=C(C=C1)C1=NCC(N(C2=C1C=C(C(=C2)OC)OC)CC)=O | C19H19BrN2O3
reactant | [(prop-2-ynyloxy)methyl]benzene | 1.3 mmol, 194 mg | C(C#C)OCC1=CC=CC=C1 | C10H10O
reactant | PPh3 | 18.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
catalyst | CuI | 9.0 mg | [Cu]I
catalyst | PdCl2 | 5.2 mg | Cl[Pd]Cl
solvent | CH3CN | 2 ml | CC#N | C2H3N
product | 5-{4-[3-(benzyloxy)prop-1-ynyl]phenyl}-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 37% | C(C1=CC=CC=C1)OCC#CC1=CC=C(C=C1)C1=NCC(N(C2=C1C=C(C(=C2)OC)OC)CC)=O | C29H28N2O4
